US04544654
4-[(Methylsulfonyl)amino]-N-[2-(2,2,6,6-tetramethylpiperidino)ethyl]benzamide hydrochloride
To 2.72 g (11.1 mmole) of 4-[(methylsulfonyl)amino]benzoyl chloride in 50 ml of tetrahydrofuran cooled to 0° C. under an N2 atmosphere add dropwise 2.04 g (11.1 mmole) of N-(2-aminoethyl)-2,2,6,6-tetramethylpiperidine. After the addition is complete, allow the reaction to stir at ambient temperature overnight. Monitor the progress of the reaction by thin layer chromatography on silica gel (acetonitrile: ammonium hydroxide; 9:1). When the reaction is complete, remove the solvent in vacuo. Dissolve the resulting oil in 50 ml of water. Add 50% sodium hydroxide until pH=14. Wash aqueous with 3×50 ml of diethyl ether. To aqueous layer add concentrated hydrochloric acid until pH=9. Extract with 3×50 ml of methylene chloride. Combine extracts and dry over sodium sulfate. Remove solvent in vacuo. Dissolve resulting oil in methanol and bubble hydrogen chloride gas through the solution until pH 1 is reached. Remove the solvent in vacuo. Recrystallize the solid in methanol/ethyl acetate to provide the title compound.

reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | 11.1 mmole, 2.72 g | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
reactant | N-(2-aminoethyl)-2,2,6,6-tetramethylpiperidine | 11.1 mmole, 2.04 g | NCCN1C(CCCC1(C)C)(C)C | C11H24N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-[(Methylsulfonyl)amino]-N-[2-(2,2,6,6-tetramethylpiperidino)ethyl]benzamide hydrochloride | Cl.CS(=O)(=O)NC1=CC=C(C(=O)NCCN2C(CCCC2(C)C)(C)C)C=C1 | InChI=1S/C19H31N3O3S.ClH/c1-18(2)11-6-12-19(3,4)22(18)14-13-20-17(23)15-7-9-16(10-8-15)21-26(5,24)25;/h7-10,21H,6,11-14H2,1-5H3,(H,20,23);1H
